US08871756B2
7-Bromo-2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine
The mixture of 2,4,6-trichloroquinoline (300 mg, 1.29 mmol), 7-bromo-2,3,4,5-tetrahydro-1H-2-benzazepine (291 mg, 1.29 mmol) and n-butanol (3 mL) was heated with stirring in a 10 mL microwave process vial for 1 hour at 160° C. under microwave irradiation. The mixture was cooled to room temperature and diluted with ethyl acetate (10 mL), and then washed with water (10 mL). The organic layer was dried over sodium sulfate and evaporated to give a residue which was purified by column chromatography on silica gel to give 222 mg of product as a white solid (yield was 41%). MS obsd. (ESI+) [(M+H)+] 421.

reactant | 2,4,6-trichloroquinoline | 1.29 mmol, 300 mg | ClC1=NC2=CC=C(C=C2C(=C1)Cl)Cl | C9H4Cl3N
reactant | 7-bromo-2,3,4,5-tetrahydro-1H-2-benzazepine | 1.29 mmol, 291 mg | BrC=1C=CC2=C(CCCNC2)C1 | C10H12BrN
reactant | n-butanol | 3 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 7-Bromo-2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | 222 mg, yield was 41% | BrC=1C=CC2=C(CCCN(C2)C2=NC3=CC=C(C=C3C(=C2)Cl)Cl)C1 | C19H15BrCl2N2
